US04394306
The compounds which constitute one of the starting reagents according to the present invention, consist of dibromoneopentyl glycol 2-bromomethyl-2-hydroxymethylpropane-1,3-diol, 2-bromomethyl-2-hydroxymethyl-1,3-dibromopropane, or mixtures thereof. As known, commercial DBNPG is obtained by the bromination of pentaerythritols. Depending on the method of operation, the product may be a relatively pure DBNPG or mixtures of 2-bromomethyl-2-hydroxymethylpropane-1,3-diol, 2,2-bis(bromomethyl)propane-1,3-diol, and 2-bromomethyl-2-hydroxymethyl-1,3-dibromopropane, wherein an average of 1.7 to 2.5 of the hydroxyls per molecule have been replaced by bromine. This represents a mixture of 2-bromomethyl-2-hydroxymethylpropane-1,3-diol,2,2-bis(bromomethyl)propane-1,3-diol and 2-bromomethyl-2-hydroxymethyl-1,3-dibromopropane whose concentration ranges vary from 5% 2-bromomethyl-2-hydroxymethylpropane-1,3-diol, 80% 2,2-bis(bromomethyl)propane-1,3-diol and 15% 2-bromomethyl-2-hydroxymethyl -1,3-dibromopane to 15% 2-bromomethyl-2-hydroxymethylpropane-1,3-diol, 80% 2,2-bis(bromomethyl)propane-1,3-diol, and 5% 2-bromomethyl-2-hydroxymethyl-1,3-dibromopropane. The residual hydroxyl groups of this mixture of compounds can also be readily hydroxymethylated. Therefore instead of utilizing pure DBNPG, the latter can be successfully replaced by the less expensive mixtures.

reactant | dibromoneopentyl glycol 2-bromomethyl-2-hydroxymethylpropane-1,3-diol | BrCC(CO)(CO)CO.BrC(O)C(C)(C(O)Br)C
reactant | 2-bromomethyl-2-hydroxymethyl-1,3-dibromopropane | BrCC(CBr)(CBr)CO | C5H9Br3O
product | DBNPG | C(C(CO)(CBr)CBr)O | C5H10Br2O2
